US08541418B2
Synthesis of (R)-2-(1-(8-cyclopentyl-7-ethyl-5-methyl-6-oxo-5,6,7,8-tetrahydropteridin-2-yl)-1H-imidazol-4-yl)acetonitrile
A mixture of intermediate B (150 mg, 0.509 mmol), 2-(1H-imidazol-4-yl)acetonitrile (1.01 mmol, 2 equivalents, 108 mg), Cut (0.1 equivalents, 0.0509 mmol, 10 mg), trans-1,2 bis(methylamino)cyclohexane (14 mg, 0.102 mmol) and Cs2CO3 (1.01 mmol, 331 mg) in DMF (1 mL) was purged with nitrogen and was subsequently heated in a sealed vial at 110° C. for 18 h. The reaction was diluted with ethyl acetate, filtered through Celite and evaporated. The residue was purified by reverse phase preparative HPLC and lyophilized to give the title compound (185 mg). 1H NMR (CDCl3) δ: 8.66 (s, 1H), 7.91 (s, 1H), 7.76 (s, 1H), 4.31-4.37 (m, 2H), 3.91 (s, 2H), 3.38 (s, 3H), 1.70-2.13 (m, 10H), and 0.93 ppm (t, J=7.4 Hz, 3H); LCMS: 366.1 m/z (M+H)+; ret. Time: 3.444 min (Analytical Method A).

reactant | 2-(1H-imidazol-4-yl)acetonitrile | 1.01 mmol, 108 mg, 2 equivalents | N1C=NC(=C1)CC#N | C5H5N3
reactant | trans-1,2 bis(methylamino)cyclohexane | 0.102 mmol, 14 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | Cs2CO3 | 1.01 mmol, 331 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-(1-(8-cyclopentyl-7-ethyl-5-methyl-6-oxo-5,6,7,8-tetrahydropteridin-2-yl)-1H-imidazol-4-yl)acetonitrile | 185 mg | C1(CCCC1)N1[C@@H](C(N(C=2C=NC(=NC12)N1C=NC(=C1)CC#N)C)=O)CC | C19H23N7O
